US07884109B2
Trans-4-(2-(1H-Benzo[d]imidazol-1-yl)-5-nitropyrimidin-4-ylamino)cyclohexanol.
A mixture of trans-4-(2-chloro-5nitropyrimidin-4-ylamino)cyclohexanol (310 mg), benzimidazole (390 mg), and potassium carbonate (0.5 g) was heated in acetonitrile at 60° C. for 2 hours. The mixture was concentrated onto silicon gel and purified by column chromatography (DCM:EtOAc:MeOH 70:22:8) to give 350 mg of the title compound.

reactant | trans-4-(2-chloro-5nitropyrimidin-4-ylamino)cyclohexanol | 310 mg | ClC1=NC=C(C(=N1)N[C@@H]1CC[C@H](CC1)O)[N+](=O)[O-] | C10H13ClN4O3
reactant | benzimidazole | 390 mg | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | Trans-4-(2-(1H-Benzo[d]imidazol-1-yl)-5-nitropyrimidin-4-ylamino)cyclohexanol | 350 mg | N1(C=NC2=C1C=CC=C2)C2=NC=C(C(=N2)N[C@@H]2CC[C@H](CC2)O)[N+](=O)[O-] | C17H18N6O3
